US06680401B1
Formation of 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
440 mg (2 mmol) of p-iodophenol were placed in a Schlenk flask with 10 ml of dry benzene and 0.17 ml of triethyl borate (1 mmol). The solution was heated for 1.5 h under an inert atmosphere (argon) at 80° C. and then the benzene and ethanol formed were distilled off the product after raising the oil bath temperature to 100° C. To the liquid in the Schlenk was then added 10 ml of activated catalyst (PdCl2[dppf].CH2Cl2) solution, prepared as described in Example 26, followed by 0.35 ml (2.4 mmol) of pinacolborane. No frothing indicating H2 evolution, which would suggest free phenol groups, was observed. The reaction solution was then heated at 80° C. for 7.5 h before removal of an aliquot for gc analysis. This sample was washed in ethyl acetate with 10% brine as described elsewhere. Only two peaks were observed in the gc with retention time longer than 2 minutes and these corresponded to phenylboronic acid pinacol ester (area approx. 7.5%) and with the desired product contributing the remaining area (92.5%).

reactant | p-iodophenol | 2 mmol, 440 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | triethyl borate | 1 mmol, 0.17 ml | B(OCC)(OCC)OCC | C6H15BO3
reactant | pinacolborane | 2.4 mmol, 0.35 ml | [B]1OC(C(O1)(C)C)(C)C | C6H12BO2
solvent | ethanol | C(C)O | C2H6O
product | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
